US05852023
Preparation of the precursor 4-(cis-4-tert-butylcyclohexylamino)-6-chloropyrimidine
58.6 g (0.39 mol) of 4,6-dichloropyrimidine were placed in 400 ml of toluene, and a mixture of 61.0 g (0.39 mol) of cis-4-tert-butylcyclohexylamine and 50.0 g (0.50 mol) of triethylamine in 100 ml of toluene was added dropwise at from 70° to 80° C. The mixture was subsequently stirred at reflux for 4 hours. After cooling, it was extracted by stirring with water, the organic phase was dried and concentrated, to give a colorless oil which crystallized after trituration with petroleum ether. Filtration with suction left 70.5 g (67.0% of theory) of colorless crystals.

reactant | 4,6-dichloropyrimidine | 0.39 mol, 58.6 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | cis-4-tert-butylcyclohexylamine | 0.39 mol, 61.0 g | C(C)(C)(C)[C@H]1CC[C@H](CC1)N | C10H21N
reactant | triethylamine | 0.50 mol, 50.0 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(cis-4-tert-butylcyclohexylamino)-6-chloropyrimidine | C(C)(C)(C)[C@H]1CC[C@H](CC1)NC1=NC=NC(=C1)Cl | C14H22ClN3
